US08383637B2
Cyclohexyl-[3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenyl]-carbamic acid benzyl ester
A mixture of cyclohexyl-[3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenyl]-amine (0.00868 mol) and Na2CO3 (0.02083 mol) in H2O (15 mL) and THF (75 mL) was stirred at 5° C. A solution of benzyl chloroformate (0.0104 mol) in THF (25 mL) was added dropwise over 15 min at 5° C. The resultant reaction mixture was stirred for 21 hours at room temperature. This mixture was extracted with diisopropyl ether. The separated organic layer was dried (MgSO4) and filtered, and the solvent was evaporated. The residue (0.00633 mol A) was reacted again with benzyl chloroformate (1.3 g, 0.0076 mol) and TEA (1.53 g, 0.0152 mol) in DCM (70 mL) under the same conditions as above. The residue was purified by column chromatography over silica gel (eluent: 95:5 CH2Cl2:hexane). The product fractions were collected and the solvent was evaporated to yield the title compound as a residue.

reactant | cyclohexyl-[3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenyl]-amine | 0.00868 mol | C1(CCCCC1)NC1=CC(=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])C(OC)OC | C21H26N2O5
reactant | Na2CO3 | 0.02083 mol | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzyl chloroformate | 0.0104 mol | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | benzyl chloroformate | 0.0076 mol, 1.3 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | H2O | 15 mL | O | H2O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | Cyclohexyl-[3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C1=CC(=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])C(OC)OC)C1CCCCC1)=O | C29H32N2O7
